US20010006969A1
4-Butylamino-2-chloro-6-nitroquinazoline
To 500 mg (2.41 mmol) of 6-nitroquinazoline-2,4 (1H,3H)-dione were added 2ml of 1,3-dimethyl-2-imidazolidinone and 8.23 g (53.64 mmol) of phosphorus oxychloride, and the resulting mixture was subjected to heating under reflux for 3 hours. After phosphorus oxychloride was removed in vacuo, the mixture was dissolved in 5 ml of acetonitrile, followed by addition of 5.9 ml (60 mmol) of butylamine and stirring under ice cooling for 30 minutes. To the reaction solution was added water, followed by extraction with ethyl acetate, washing with brine and drying over anhydrous sodium sulfate. After the solvent was distilled off, the residue was purified by a silica gel column to give 430 mg (yield: 63.6%) of the title compound.

reactant | 6-nitroquinazoline-2,4 (1H,3H)-dione | 2.41 mmol, 500 mg | [N+](=O)([O-])C=1C=C2C(NC(NC2=CC1)=O)=O | C8H5N3O4
reactant | 1,3-dimethyl-2-imidazolidinone | 2ml | CN1C(N(CC1)C)=O | C5H10N2O
reactant | phosphorus oxychloride | 53.64 mmol, 8.23 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | butylamine | 60 mmol, 5.9 ml | C(CCC)N | C4H11N
solvent | water | O | H2O
product | 4-Butylamino-2-chloro-6-nitroquinazoline | 430 mg, yield: 63.6% | C(CCC)NC1=NC(=NC2=CC=C(C=C12)[N+](=O)[O-])Cl | C12H13ClN4O2
